US07960394B2
3-Methyl-2-[3-(3-piperidin-1-ylpropoxy)-phenyl]-7-methylsulfonylamino-4(3H)-quinazolinone
The entitled compound was obtained according to the method of Example 70 but starting from 2-amino-4-nitrobenzoic acid, methylamine and 3-(3-piperidin-1-ylpropoxy)benzaldehyde and methanesulfonyl chloride.

reactant | 2-amino-4-nitrobenzoic acid | NC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H6N2O4
reactant | methylamine | CN | CH5N
reactant | 3-(3-piperidin-1-ylpropoxy)benzaldehyde | N1(CCCCC1)CCCOC=1C=C(C=O)C=CC1 | C15H21NO2
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | 3-Methyl-2-[3-(3-piperidin-1-ylpropoxy)-phenyl]-7-methylsulfonylamino-4(3H)-quinazolinone | CN1C(=NC2=CC(=CC=C2C1=O)NS(=O)(=O)C)C1=CC(=CC=C1)OCCCN1CCCCC1 | C24H30N4O4S
